datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[C+:11]([CH2:10][S:20]C(F)(F)F)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;20,21=21"
"CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH:10]2)=C1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32]>>CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH+:10]2[CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[O:33]CC)=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.COC1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1>>COC1=CC=C(C[C:10]2([CH:20]([CH:21]=[CH:22][N:23](CC3=CC=CC=C3)CC3=CC=CC=C3)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20;20,21=21,22;22,23=23"
"CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64]2=[C:63](C=CC=C2)[N:62]1C.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64]2=[C:63](C=CC=C2)[N:62]1C)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"[N-:10]=[C:61]=[S:62].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4CC[CH:20]([N:10]=[C:61]=[S:62])C1C2C43 10=20;20,21=21"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.C[S+:61](C)[CH:10]=[C:11]=[N-:12]>>C[S+:61](C)[CH:10]([C:11]#[N:12])[C:20]([N-:21]C1=CC=CC=C1)=[N:31]C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1.[CH:10]1=[C:11]([O-:12])[NH:82][C:73](=[O:74])[NH:82][C:61]1=[O:62]>>[CH:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:11](=[O:12])[NH:82][C:73](=[O:74])[NH:82][C:61]1=[O:62] 10,11=10,20;12=11,12"
"C1=CC=C([S:61]([CH-:10][S:81](C2=CC=CC=C2)(=[O:82])=[O:92])(=[O:62])=[O:72])C=C1.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[S:81](C2=CC=CC=C2)(=[O:82])=[O:92])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[Si](C)(C)O[N:12](O[Si](C)(C)C(C)(C)C)[C:11](C)=[CH2:10].[CH:20]1=[CH:21][C:22](=[O:23])[O:43][C:31]1=[O:32]>>CC(C)(C)[Si](C)(C)O[N+:12](O[Si](C)(C)C(C)(C)C)=[C:11](C)[CH2:10][CH:20]1[CH:21]=[C:22]([O-:23])[O:43][C:31]1=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1CC[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:11]1=[CH:10]C1=CC=C([N+](=O)[O-])C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10](C1=CC=C([N+](=O)[O-])C=C1)[C:11]1=[N+:12](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)CC[N:63]1C1=C(C(C)(C)C)C=CC=C1C(C)(C)C)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.CO[C:74]1=[CH:73][CH:72]=[C:71]([CH:11]([H:10])[CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([H:10])[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.CO[C:74]1=[CH:73][CH:72]=[C:71]([CH+:11][CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1 10,11=10,20;20,21=21"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1.[CH2:10]=[N+:11]=[N-:12]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH2:10][N+:11]#[N:12])[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10,11=10,20;12=11,12;20,21=21"
"C[C:21]1=[CH:20]CCC[C:22]1=[O:23].[O:10]=[C:11]1[C:12](=[N+:13]([O-:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]1>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[O:10][C:11]1=[C:12]([N+:13](=[O:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1CC[C:11]([N:12]2CCOCC2)=[CH:10]C1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([CH:10]2CCCC[C:11]2=[N+:12]2CCOCC2)[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1 10,11=10,20;12=11,12"
